US09216968B2
{4-[(3-Chloro-2-methylphenyl) carbamoyl]-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazol-2-yl}methyl acetate
A mixture of 2-(hydroxymethyl)-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylic acid (50 mg) and N,N-diisopropylethylamine (49 μL) in methylene chloride-THF (1:1) (2 mL) was stirred under ice-cooling, acetyl chloride (19 μL) was added, and it was stirred at room temperature overnight. The reaction mixture was poured into a cold 10% aqueous citric acid solution, and extracted with ethyl acetate. The organic layer was separated, washed with brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was dissolved in DMF (3 mL), HBTU (65 mg) and triethylamine (24 μL) were added, and it was stirred at room temperature. To the mixture was added 3-chloro-2-methylaniline (16 μL) and it was stirred overnight. The reaction mixture was poured into ice water, and extracted with ethyl acetate. The organic layer was washed sequentially with water and brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure.

reactant | 2-(hydroxymethyl)-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazole-4-carboxylic acid | 50 mg | OCC1=NC2=C(N1)C=C(C=C2C(=O)O)NC(=O)C2=C(C=CC=C2)C(F)(F)F | C17H12F3N3O4
reactant | N,N-diisopropylethylamine | 49 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetyl chloride | 19 μL | C(C)(=O)Cl | C2H3ClO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | methylene chloride THF | 2 mL | C(Cl)Cl.C1CCOC1
product | {4-[(3-Chloro-2-methylphenyl) carbamoyl]-6-({[2-(trifluoromethyl)phenyl]carbonyl}amino)-1H-benzimidazol-2-yl}methyl acetate | C(C)(=O)OCC1=NC2=C(N1)C=C(C=C2C(NC2=C(C(=CC=C2)Cl)C)=O)NC(=O)C2=C(C=CC=C2)C(F)(F)F | C26H20ClF3N4O4
